US05051413
The starting material is manufactured as follows: Reaction of crotonaldehyde with isocyanoacetic acid ethyl ester in a manner analogous to that described in Example 1 yields 5-(propen-1-yl)-2-oxazoline-4-carboxylic acid ethyl ester. By hydrolysis of the 5-(propen-1-yl)-2-oxazoline-4-carboxylic acid ethyl ester analogously to Example 1, 2-formylamino-3-hydroxy-4-hexenoic acid ethyl ester is obtained. Reaction of the 2-formylamino-3-hydroxy-4-hexenoic acidethyl ester with thionyl bromide and subsequent treatment with triethyl phosphite in a manner analogous to that described in Example 1 (12 hours) yields E-2-formylamino-5-diethylphosphono-5-methyl-3-pentenoic acid ethyl ester.

reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | isocyanoacetic acid ethyl ester | C(C)OC(C[N+]#[C-])=O | C5H7NO2
product | 5-(propen-1-yl)-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1C=CC | C9H13NO3
